US08247403B2
(5) tert-butyl 9-bromo-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 4-benzyl-9-bromo-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine (350 mg, 1.04 mmol), 1-chloroethyl chloroformate (0.178 ml, 1.65 mmol) and 1,2-dichloroethane (10 ml) was stirred at 90° C. for 1 hr, and the solvent was evaporated under reduced pressure. Methanol (10 ml) was added to the residue, and the mixture was stirred at 80° C. for 1 hr. The solvent was evaporated under reduced pressure. The residue was washed with ether, and 1N aqueous sodium hydroxide solution (2 ml), dioxane (4 ml) and di-tert-butyl dicarbonate (0.390 ml, 1.75 mmol) were added to the residue under ice-cooling. The mixture was stirred under ice-cooling for 1 hr and at room temperature for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (260 mg, 72.2%) as a solid.

reactant | 4-benzyl-9-bromo-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine | 1.04 mmol, 350 mg | C(C1=CC=CC=C1)N1CCOC2=C(C1)C(=CC=C2Br)F | C16H15BrFNO
reactant | 1-chloroethyl chloroformate | 1.65 mmol, 0.178 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
reactant | di-tert-butyl dicarbonate | 1.75 mmol, 0.390 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | tert-butyl 9-bromo-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 260 mg, 72.2% | BrC1=CC=C(C=2CN(CCOC21)C(=O)OC(C)(C)C)F | C14H17BrFNO3
